US07138411B2
Step 1. Preparation of ethyl-6-chloro-4-ethyl-2-trifluoromethyl-2H-1-benzopyran-3-carboxylate.
Ethyl-6-chloro-4-ethenyl-2-trifluoromethyl-2H-1-benzopyran-3-carboxylate (Example 142,Step 5)(0.433 g, 1.30 mmol) was dissolved in methanol (10 mL). Palladium(5 wt % on activated carbon)(0.150 g) was slowly added. The reaction vessel was charged with hydrogen (25 psi) and was stirred for 25 minutes. Gas chromatographic analysis indicated that the reaction was complete. The reaction mixture was filtered through Celite and evaporated to yield a orange oil. The oil was purified by flash column chromatography(100 % hexanes) to yield the desired product as a yellow oil (0.282 g, 65%): 1H NMR (CDCl3/300 MHz) 7.43 (d, 1H, J=2.4 Hz), 7.25 (dd, 1H, J=2.4, 8.7 Hz), 6.92(d, 1H, J=8.7 Hz), 5.75 (q, 1H, J=7.0 Hz), 4.38–4.24 (m, 2H), 3.05–2.95 (m, 2H), 1.35 (t, 3H, J=7.2 Hz), 1.25, (t, 3H, J=7.6 Hz).

reactant | Ethyl-6-chloro-4-ethenyl-2-trifluoromethyl-2H-1-benzopyran-3-carboxylate | 1.30 mmol, 0.433 g | C(C)OC(=O)C=1C(OC2=C(C1C=C)C=C(C=C2)Cl)C(F)(F)F | C15H12ClF3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Palladium | 0.150 g | [Pd] | Pd
product | ethyl-6-chloro-4-ethyl-2-trifluoromethyl-2H-1-benzopyran-3-carboxylate | 0.282 g, 65% | C(C)OC(=O)C=1C(OC2=C(C1CC)C=C(C=C2)Cl)C(F)(F)F | C15H14ClF3O3
